US05359091
(E)-N-(3-Chloro-2-propenyl)-N-methyl-1-naphthalenemethanamine
To a solution of 9.84 g (57.5 mmol) of N-methyl-1-naphthalenemethanamine in 60 ml of dimethyl sulfoxide were added 5.5 ml (60 mmol) of 1,3-dichloropropene (E/Z=9/1) and 8.28 g (60 mmol) of potassium carbonate under ice cooling. The mixture was stirred for 6 hours at room temperature, poured into 250 ml of ethyl acetate, washed with 150 ml×3 of water and 150 ml of saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was subjected to silica gel chromatography (n-hexane→n-hexane/ethyl acetate=9/1). The desired fractions were put together and concentrated under reduced pressure to obtain 10.86 g (yield: 77%) of the above identified compound as an oil.

reactant | N-methyl-1-naphthalenemethanamine | 57.5 mmol, 9.84 g | CNCC1=CC=CC2=CC=CC=C12 | C12H13N
reactant | 1,3-dichloropropene | 60 mmol, 5.5 ml | ClC=CCCl | C3H4Cl2
reactant | potassium carbonate | 60 mmol, 8.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
product | (E)-N-(3-Chloro-2-propenyl)-N-methyl-1-naphthalenemethanamine | yield: 77% | Cl/C=C/CN(CC1=CC=CC2=CC=CC=C12)C | C15H16ClN
